US06573293B2
2,4-Dimethyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide
6-Phenyl-1,3-dihydroindol-2-one (0.08 g, 0.4 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide (0.1 g) to give 65 mg (38%) of the title compound as a yellow solid.

reactant | 6-Phenyl-1,3-dihydroindol-2-one | 0.4 mmol, 0.08 g | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide | 0.1 g | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
product | 2,4-Dimethyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide | 65 mg, 38% | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O)C)CC | C28H32N4O2
